US07893058B2
Step 3: (4-Morpholin-4-ylphenyl)-[5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)imidazo[1,2-a]pyrazin -8-yl]carbamic acid tert-butyl ester
(5-Bromoimidazo[1,2-a]pyrazin-8-yl)-(4-morpholin-4-ylphenyl)carbamic acid tert-butyl ester (47 mg, 0.10 mmol), bis(pinacolato)diboron (51 mg, 0.20 mmol), KOAc (29 mg, 0.30 mmol) and Pd(dppf)Cl2-DCM (4 mg, 0.0050 mmol) are stirred under N2 in dioxane (0.3 mL) and heated at 80° C. for 1.5 h. The resulting solution is cooled and used for the following step.

reactant | (5-Bromoimidazo[1,2-a]pyrazin-8-yl)-(4-morpholin-4-ylphenyl)carbamic acid tert-butyl ester | 0.10 mmol, 47 mg | C(C)(C)(C)OC(N(C1=CC=C(C=C1)N1CCOCC1)C=1C=2N(C(=CN1)Br)C=CN2)=O | C21H24BrN5O3
reactant | bis(pinacolato)diboron | 0.20 mmol, 51 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | KOAc | 0.30 mmol, 29 mg | CC(=O)[O-].[K+]
solvent | dioxane | 0.3 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(dppf)Cl2 DCM | 0.0050 mmol, 4 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | (4-Morpholin-4-ylphenyl)-[5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)imidazo[1,2-a]pyrazin -8-yl]carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(C=1C=2N(C(=CN1)B1OC(C(O1)(C)C)(C)C)C=CN2)C2=CC=C(C=C2)N2CCOCC2)=O | C27H36BN5O5
